US09334267B2
1-(2-Bromo-4-fluoro-5-nitrophenyl)propan-2-one
Treat a solution of 2-(2-bromo-4-fluoro-5-nitrophenyl)acetic acid (30.0 g, 0.11 mol) in acetic anhydride (30 mL) with 1-methylimidazole (4.5 g, 55 mmol), stir at RT for 2 h, treat with water, stir for 5 min, and extract with EtOAc. Wash the combined organics with water, saturated. Na2CO3, then brine, dry over Na2SO4, concentrate and purify via silica gel chromatography (EtOAc/petroleum ether) to afford the title compound (12 g, 40% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.19 (d, J=8.0 Hz, 1H), 8.02 (d, J=10.8 Hz, 1H), 4.09 (s, 2H), 2.23 (s, 3H).

reactant | 2-(2-bromo-4-fluoro-5-nitrophenyl)acetic acid | 0.11 mol, 30.0 g | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])CC(=O)O | C8H5BrFNO4
reactant | 1-methylimidazole | 55 mmol, 4.5 g | CN1C=NC=C1 | C4H6N2
reactant | water | O | H2O
solvent | acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(2-Bromo-4-fluoro-5-nitrophenyl)propan-2-one | 12 g, 40% yield | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])CC(C)=O | C9H7BrFNO3
